US08754229B2
To methyl 4-amino-5-fluoro-3-methoxy-6-vinylpicolinate (0.32 g, 1.42 mmol) in EtOAc (5 mL) was added 10% palladium on carbon (Pd/C, 0.16 g, 0.15 mmol). The mixture was stirred under an atmosphere of hydrogen overnight, filtered through Celite and concentrated to provide methyl 4-amino-6-ethyl-5-fluoro-3-methoxypicolinate (0.21 g, 0.92 mmol) as a white solid: mp 110.5-113.0° C.; 1H NMR (400 MHz, CDCl3) δ 4.41 (s, 2H), 3.96 (s, 3H), 3.90 (s, 3H), 2.81 (qd, J=7.6, 2.7 Hz, 2H), 1.26 (t, J=7.6 Hz, 3H); 13C NMR (101 MHz, CDCl3) δ 165.2, 148.6, 146.2, 144.2, 136.8, 136.1, 61.5, 52.7, 25.3, 12.9; 19F NMR (376 MHz, CDCl3) δ −142.6; EIMS m/z 228.

reactant | methyl 4-amino-5-fluoro-3-methoxy-6-vinylpicolinate | 1.42 mmol, 0.32 g | NC1=C(C(=NC(=C1F)C=C)C(=O)OC)OC | C10H11FN2O3
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
catalyst | palladium on carbon | 0.15 mmol, 0.16 g | [Pd] | Pd
product | methyl 4-amino-6-ethyl-5-fluoro-3-methoxypicolinate | 0.92 mmol, 0.21 g | NC1=C(C(=NC(=C1F)CC)C(=O)OC)OC | C10H13FN2O3
